US04487929
2.3 ml of 1,5-diazabicyclo[5.4.0]undec-5-ene in 10 ml of dioxan were added at 5° C. to a solution of 4.4 g of tert.butyl 2-bromomethyl-hexahydro-3-oxo-1H-pyrazolo[1,2-a]-pyridazine-5-carboxylate (diastereomer B) in 25 ml of dioxan. The mixture was left to stand at room temperature for 2 hours and then filtered. The filtrate was evaporated and the residue was dissolved in ethyl acetate. The solution was filtered through 6 g of silica gel and evaporated. The residue obtained was dissolved in 10 ml of acetone. The solution was treated with 1.6 g of potassium thioacetate and subsequently with 10 ml of thioacetic acid, whereupon the mixture was stirred overnight at room temperature. The mixture was diluted with 100 ml of dichloromethane and washed with 50 ml of saturated aqueous sodium bicarbonate. The separated organic phase was dried over magnesium sulfate and evaporated to give an oil which was chromatographed over 200 g of silica gel using diethyl ether/hexane for the elution. After recrystallization from ethyl acetate/hexane, there were obtained 1.69 g of tert.butyl 2-acetylthiomethyl-hexahydro-3-oxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate (diastereomer A) and 0.9 g of the corresponding diastereomer B.

reactant | 1,5-diazabicyclo[5.4.0]undec-5-ene | 2.3 ml | N12CCCN=CC2CCCC1 | C9H16N2
reactant | tert.butyl 2-bromomethyl-hexahydro-3-oxo-1H-pyrazolo[1,2-a]-pyridazine-5-carboxylate | 4.4 g | BrCC1C(N2N(CCCC2C(=O)OC(C)(C)C)C1)=O | C13H21BrN2O3
reactant | potassium thioacetate | 1.6 g | C(C)(=S)[O-].[K+]
reactant | thioacetic acid | 10 ml | C(C)(=S)O | C2H4OS
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 25 ml | O1CCOCC1 | C4H8O2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | tert.butyl 2-acetylthiomethyl-hexahydro-3-oxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate | 1.69 g | C(C)(=O)SCC1C(N2N(CCCC2C(=O)OC(C)(C)C)C1)=O | C15H24N2O4S
